US07094801B2
4-{3E-[4-Methoxy-2-(6-methyl-pyridin-2-yloxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide
4-Methoxy-2-(6-methyl-pyridin-2-yloxy)-5-thiophen-2-yl-benzaldehyde (Ex-122A, 0.20 g, 0.62 mmol) and 4-acetylbenzenesulfonamide (Ex-26A, 0.12 g, 0.62 mmol) were dissolved in a dimethylformamide-methanol solution (4.2 mL, 7:3). After complete dissolution, lithium methoxide (0.093 g, 2.5 mmol) was added and the resulting orange slurry was stirred in the dark at room temperature for 3 h. Upon completion, as determined by HPLC, the mixture was diluted with water (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude oil was taken up in ethanol (2 mL) and warmed to 60° C. to obtain complete dissolution and allowed to cool to room temperature. The resulting precipitate was collected on filter paper and dried in vacuo to yield 0.25 g (82%) of the title compound as a yellow solid, mp 164–165° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.47 (s, 1H), 8.24 (d, 2H, J=8.1 Hz), 7.98 (d, 1H, J=15.3 Hz), 7.96 (d, 2H, J=8.1 Hz), 7.78–7.85 (m, 2H), 7.77 (d, 1H, J=15.3 Hz), 7.62 (d, 1H, J=5.1 Hz), 7.57 (s, 2H), 7.19 (dd, 1H, J=5.1, 3.6 Hz), 7.04 (d, 1H, J=7.5 Hz), 6.99 (s, 1H), 6.91 (d, 1H, J=8.4 Hz), 3.90 (s, 3H), 2.33 (s, 3H). Anal. Calcd. C26H22N2O5S2: C, 61.64; H, 4.38; N, 5.53; S, 12.66. Found: C, 61.88; H, 4.47; N, 5.59; S, 12.62.

reactant | 4-Methoxy-2-(6-methyl-pyridin-2-yloxy)-5-thiophen-2-yl-benzaldehyde | 0.62 mmol, 0.20 g | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OC1=NC(=CC=C1)C | C18H15NO3S
reactant | 4-acetylbenzenesulfonamide | 0.62 mmol, 0.12 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | lithium methoxide | 2.5 mmol, 0.093 g | C[O-].[Li+]
solvent | dimethylformamide methanol | 4.2 mL | CN(C=O)C.CO
solvent | water | 10 mL | O | H2O
product | 4-{3E-[4-Methoxy-2-(6-methyl-pyridin-2-yloxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide | 0.25 g, 82% | COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC1=NC(=CC=C1)C | C26H22N2O5S2
